US03943154
2-trifluoromethylvinyl 4-aminophenyl sulfone is prepared by the addition of 4-acetamidobenzenesulfonyl iodide to 1,1,1-trifluoropropene followed by dehydrohalogenation and removal of the N-acetyl protective group by hydrolysis in a hydrochloric acid-ethanol mixture. The product is dissolved in acetone (25.1 g or 0.1 mol), an acetone solution of 0.1 mol (17.3 g) of ethylphosphorochloridate in acetone added, followed by 11.2 g of 1,4-diazabicyclo[2.2.2]octane in 10% acetone solution. The reaction mixture is stirred for one hour at room temperature, filtered, most of the acetone evaporated, and the residue is mixed with chloroform, washed and worked up. There is thus obtained 4-diethoxyphosphoramidophenyl 2-trifluoromethylvinyl sulfone: ##SPC59##

reactant | 4-acetamidobenzenesulfonyl iodide | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)I | C8H8INO3S
reactant | 1,1,1-trifluoropropene | FC(C=C)(F)F | C3H3F3
reactant | ethylphosphorochloridate | 0.1 mol, 17.3 g | C(C)OP([O-])(=O)Cl
reactant | 1,4-diazabicyclo[2.2.2]octane | 11.2 g | N12CCN(CC1)CC2 | C6H12N2
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 0.1 mol, 25.1 g | CC(=O)C | C3H6O
product | 2-trifluoromethylvinyl 4-aminophenyl sulfone | NC1=CC=C(C=C1)S(=O)(=O)C=CC(F)(F)F | C9H8F3NO2S
